US08476253B2
tert-Butyl (3-{[(5-formyl-2-thienyl)carbonyl](methyl)amino}propyl)methylcarbamate
5-Formylthiophene-2-carboxylic acid (300 mg, 1.92 mmol) and tert-butyl methyl[3-(methylamino)propyl]carbamate (466 mg, 2.31 mmol) were used to give the title compound (517 mg; yield, 83%) as a colorless oily substance according to the method described in Example 41a.

reactant | 5-Formylthiophene-2-carboxylic acid | 1.92 mmol, 300 mg | C(=O)C1=CC=C(S1)C(=O)O | C6H4O3S
reactant | tert-butyl methyl[3-(methylamino)propyl]carbamate | 2.31 mmol, 466 mg | CN(C(OC(C)(C)C)=O)CCCNC | C10H22N2O2
product | tert-Butyl (3-{[(5-formyl-2-thienyl)carbonyl](methyl)amino}propyl)methylcarbamate | 517 mg, 83% | C(=O)C1=CC=C(S1)C(=O)N(CCCN(C(OC(C)(C)C)=O)C)C | C16H24N2O4S
